US06992087B2
Preparation of benzyl (3R,4S)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting benzyl (3R,4S)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-hydroxypyrrolidine-1-carboxylate and 2-fluoro-1-bromo ethane, and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 7.49, 7.41-7.25, 5.18, 4.81, 4.67, 4.55, 4.17, 4.06, 3.80-3.62, 3.39-3.29, 2.69, 2.47, 1.28, 1.15; IR (diffuse reflectance) 2971, 2386 (w), 2350 (w), 2338 (w), 2039 (w), 2014 (w), 1710 (s), 1699 (s,b), 1569, 1499, 1467 (s), 1450, 1428, 1420, 1397, cm−1; HRMS (FAB) calcd for C28H31Cl2FN4O3+H 561.1835, found 561.1808.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | benzyl (3R,4S)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-hydroxypyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1)CC | C26H28Cl2N4O3
reactant | 2-fluoro-1-bromo ethane | FCCBr | C2H4BrF
product | benzyl (3R,4S)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OCC1=CC=CC=C1)CC | C28H31Cl2FN4O3
